US04597902
N-[2-[(4-Fluorophenyl)sulfonyl]ethyl]-2-propanamine hydrochloride
A solution of 60.25 g (0.165 mole) of N-[2-[(4-fluorophenyl)sulfonyl]ethyl]-N-(1-methylethyl)carbamic acid phenyl ester in 400 ml of 48% HBr was heated at reflux for 8 hr. The reaction mixture was cooled with ice and made alkaline with 50% sodium hydroxide. The aqueous phase was extracted with chloroform. The chloroform layer was extracted with sodium hydroxide. Evaporation of the chloroform layer gave an oil residue. The oil was dissolved in methylene chloride and the solution extracted with 1N sulfuric acid. The acidic layer was made alkaline with a mixture of ice and 50% sodium hydroxide solution and extracted with chloroform. Removal of chloroform gave an oil, the free base of the title compound, which was dissolved in methanol and reacted with ethereal hydrogen chloride to give the hydrochloride salt. On recrystallization from methanol-diethyl ether a white crystalline product; m.p. 168°-169° C. in 31.1% yield was obtained.

reactant | N-[2-[(4-fluorophenyl)sulfonyl]ethyl]-N-(1-methylethyl)carbamic acid phenyl ester | 0.165 mole, 60.25 g | C1(=CC=CC=C1)OC(N(C(C)C)CCS(=O)(=O)C1=CC=C(C=C1)F)=O | C18H20FNO4S
reactant | sodium hydroxide | [OH-].[Na+]
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | HBr | 400 ml | Br | BrH
solvent | methanol | CO | CH4O
product | N-[2-[(4-Fluorophenyl)sulfonyl]ethyl]-2-propanamine hydrochloride | Cl.FC1=CC=C(C=C1)S(=O)(=O)CCNC(C)C | InChI=1S/C11H16FNO2S.ClH/c1-9(2)13-7-8-16(14,15)11-5-3-10(12)4-6-11;/h3-6,9,13H,7-8H2,1-2H3;1H
